Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L leg pain
 
Major Surgical or Invasive Procedure:
L knee spanning external fixator 
 
History of Present Illness:
___ male PMHx ESRD on peritoneal dialysis presents to ___
with L knee pain after jumping off of an 8 foot wall while at a
concert in ___, landing on his feet when his left knee gave
out.  Immediate pain, inability to bear weight.  Now presents to
___ ED.  Denies numbness or tingling distally.  Denies HS or
LOC. 

 
Past Medical History:
ESRD, Peritoneal dialysis 
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
General: Comfortable. No acute distress
Res: Breathing comfortably
Abd: Soft
LLE: ex fix in place. pin sites c/d/I no erythema; fires TA, 
gastroc, ___ SILT S/S/SP/DP/T distributions; 1+ ___ 
pulses, WWP. soft compartments. 
 
Pertinent Results:
___ 10:39AM   GLUCOSE-79 UREA N-58* CREAT-16.3* SODIUM-139 
POTASSIUM-4.8 CHLORIDE-98 TOTAL CO2-20* ANION GAP-26*
___ 10:39AM   CALCIUM-8.8 PHOSPHATE-5.5* MAGNESIUM-2.3
___ 10:39AM   WBC-12.6* RBC-2.72* HGB-9.2* HCT-27.6* 
MCV-102* MCH-33.8* MCHC-33.3 RDW-13.7 RDWSD-50.6*
___ 10:39AM   PLT COUNT-361
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left bicondylar tibial plateau fracture and was 
admitted to the orthopedic surgery service. The patient was 
taken to the operating room on ___ > for placement of a knee 
spanning external fixator, which the patient tolerated well. For 
full details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to orthopaedic surgery service was 
appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight bearing in the left lower extremity, and will be 
discharged on <<>> for DVT prophylaxis. The patient will follow 
up with his Orthopaedic team in ___ per routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Lanthanum 500 mg PO TID W/MEALS 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Cinacalcet 60 mg PO DAILY 
5. sevelamer CARBONATE 2400 mg PO TID W/MEALS 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
This is a new medication to prevent post-operative constipation. 
Hold for diarrhea or loose stools. 
RX *docusate sodium 100 mg 2 tablet(s) by mouth twice per day 
Disp #*80 Tablet Refills:*0 
2.  Enoxaparin Sodium 30 mg SC QDAY  vte prophylaxis  
Start: on discharge  
please take this medication as directed to prevent blood clots  
RX *enoxaparin 30 mg/0.3 mL 1 syringe subcutanous once per day 
Disp #*26 Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
___ take before driving, operating machinery, or with alcohol. 

RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID 
This is a new medication to treat your constipation. please hold 
for diarrhea 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth at night Disp 
#*40 Tablet Refills:*0 
5.  Atorvastatin 10 mg PO QPM  
6.  Cinacalcet 60 mg PO DAILY  
7.  Lanthanum 500 mg PO TID W/MEALS  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  sevelamer CARBONATE 2400 mg PO TID W/MEALS  
10.Tall Crutches
Dx: L tibial plateau fracture 
Prognosis: Good
___: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left bicondylar tibial plateau fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: NWB LLE. Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Non Weight Bearing; Left Lower Extremity 
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take enoxaparin (lovonox) daily for 4 weeks

WOUND CARE:
Keep area around external fixator device dry. Do not submerge in 
water. Follow pin-site care per nursing instructions. 

Remain non-weight bearing on the left lower extremity 

Follow up planned in ___, NC on ___
 
Followup Instructions:
___